US07977340B2
Step 9. 1-Ethyl-3-[7-(1-methyl-1H-pyrrol-2-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea [Example 11]
To a solution of 1-ethyl-3-(7-iodo-5-pyridin-3-yl-benzothiazol-2-yl)-urea (0.10 g, 0.24 mmol) in DMF (2.0 mL) was added N-methyl-2-tributylstannyl-1H-pyrrole (0.18 g, 0.47 mmol) under nitrogen atmosphere at room temperature. The reaction mixture was degassed for half an hour followed by the addition of tetrakis(triphenylphosphine)palladium(0) (0.027 g, 0.024 mmol). The reaction mixture was again degassed for half an hour and then heated at 120° C. for 20 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), DMF was distilled off, added water and extracted with ethyl acetate (×3). The combined organic layer was dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The crude residue was purified by prep-HPLC to provide the title compound as off white solid (0.005 g, 6.0%).

reactant | 1-ethyl-3-(7-iodo-5-pyridin-3-yl-benzothiazol-2-yl)-urea | 0.24 mmol, 0.10 g | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2I)C=2C=NC=CC2 | C15H13IN4OS
reactant | N-methyl-2-tributylstannyl-1H-pyrrole | 0.47 mmol, 0.18 g | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Ethyl-3-[7-(1-methyl-1H-pyrrol-2-yl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C=2N(C=CC2)C)C=2C=NC=CC2 | C20H19N5OS
